US07691879B2
1-(1-chloro-6-methoxy-4-phenylisoquinolin-3-yl)-N,N-dimethylmethanamine
3-[(dimethylamino)methyl]-6-methoxy-4-phenylisoquinolin-1(2H)-one (50 mg) was combined with 0.600 mL of POCl3, and the reaction was stirred at 90 C for 1 h. After cooling, the reaction was partitioned between saturated aqueous sodium bicarbonate and EtOAc. The organic solution was dried over Na2SO4 and concentrated. Flash chromatography (3% MeOH in CH2Cl2) gave the titled compound.

reactant | 3-[(dimethylamino)methyl]-6-methoxy-4-phenylisoquinolin-1(2H)-one | 50 mg | CN(C)CC=1NC(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O | C19H20N2O2
reactant | POCl3 | 0.600 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-(1-chloro-6-methoxy-4-phenylisoquinolin-3-yl)-N,N-dimethylmethanamine | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)CN(C)C | C19H19ClN2O
